US08377970B2
N-[6-(3,5-dicyclopropyl-1H-pyrazol-1-yl)pyridin-3-yl]-2,6-difluorobenzamide hydrochloride
Following the general procedure-1, N-[6-(3,5-dicyclopropyl-1H-pyrazol-1-yl)pyridin-3-yl]-2,6-difluorobenzamide (71 mg) was prepared from 2,6-difluorobenzoic acid (126 mg, 0.799 mmol) and intermediate 30 (120 mg, 0.5 mmol) as a brown solid and dissolved in THF. Saturated HCl in diethyl ether was added to this solution at 0° C. and stirred for 15 min Solid that separated out was filtered and dried to give the title compound (69 mg) as a brown solid. M.P. 196-201° C. 1H-NMR (δ ppm, DMSO-d6, 400 MHz): 11.16 (s, 1H), 8.72 (d, J 2.3, 1H), 8.26 (dd, J 2.5, 8.9, 1H), 7.75 (d, J 8.8, 1H), 7.65-7.60 (m, 1H), 7.27 (t, J 8.0, 2H), 5.82 (s, 1H), 2.69-2.60 (m, 1H), 1.90-1.82 (m, 1H), 0.94-0.82 (m, 4H), 0.70-0.59 (m, 4H). MS (m/z): [M+H—HCl]+.

reactant | N-[6-(3,5-dicyclopropyl-1H-pyrazol-1-yl)pyridin-3-yl]-2,6-difluorobenzamide | 71 mg | C1(CC1)C1=NN(C(=C1)C1CC1)C1=CC=C(C=N1)NC(C1=C(C=CC=C1F)F)=O | C21H18F2N4O
reactant | 2,6-difluorobenzoic acid | 0.799 mmol, 126 mg | FC1=C(C(=O)O)C(=CC=C1)F | C7H4F2O2
reactant | HCl | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | N-[6-(3,5-dicyclopropyl-1H-pyrazol-1-yl)pyridin-3-yl]-2,6-difluorobenzamide hydrochloride | 69 mg | Cl.C1(CC1)C1=NN(C(=C1)C1CC1)C1=CC=C(C=N1)NC(C1=C(C=CC=C1F)F)=O | InChI=1S/C21H18F2N4O.ClH/c22-15-2-1-3-16(23)20(15)21(28)25-14-8-9-19(24-11-14)27-18(13-6-7-13)10-17(26-27)12-4-5-12;/h1-3,8-13H,4-7H2,(H,25,28);1H
